US09376443B2
2-Azidomethyl-6-(1-hydroxy-1-methylethyl)pyridine
2-Bromomethyl-6-(1-hydroxy-1-methylethyl)pyridine (7.61 g, 33 mmol) was dissolved in dimethylformamide (100 mL) and sodium azide (2.6 g, 39.7 mmol) added. After stirring the resultant mixture overnight at ambient temperature, the reaction was poured into dicholoromethane and washed well with water. The organic layer was dried (magnesium sulphate), filtered and concentrated to dryness. The resulting yellow oil (5.88 g, 93%) was used without further purification; NMR δH (400 MHz, CDCl3) 7.70 (1H, t, J 7.8 Hz), 7.30 (1H, d, J 8.0 Hz), 7.19 (1H, d, J 7.8 Hz), 4.82 (1H, br s), 4.42 (2H, s), 1.51 (6H, s); LC-MS Retention time 2.06 min, (M+H)+ 193.

reactant | 2-Bromomethyl-6-(1-hydroxy-1-methylethyl)pyridine | 33 mmol, 7.61 g | BrCC1=NC(=CC=C1)C(C)(C)O | C9H12BrNO
reactant | sodium azide | 39.7 mmol, 2.6 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 2-Azidomethyl-6-(1-hydroxy-1-methylethyl)pyridine | N(=[N+]=[N-])CC1=NC(=CC=C1)C(C)(C)O | C9H12N4O
